US09024093B2
Methyl (E)-2-diazo-4-phenyl-3-butenoate (S33)
To a stirred solution of (E)-methyl 4-phenylbut-3-enoate (S32) and p-ABSA (see reference above for preparation of p-ABSA) in CH3CN cooled to 0° C., was added DBU. The reaction mixture was allowed to warm to room temperature over 7 h then quenched with saturated ammonium chloride (NH4Cl). The aqueous layer was extracted with diethyl ether three times and the combined organic layers were washed with brine and dried over Na2SO4. The solvent was removed under reduced pressure and the residue was triturated with a solution of pentane:diethyl ether (1:1). The solid was filtered off and the solvent was removed under reduced pressure. The residue was purified by flash chromatography (SiO2, pentane:diethyl ether (15:1)) to give the title compound (S33) in 68% yield as a dark red solid, which was stored neat at −10° C. until ready for use.

reactant | (E)-methyl 4-phenylbut-3-enoate | C1(=CC=CC=C1)/C=C/CC(=O)OC | C11H12O2
reactant | p-ABSA | CC(=O)NC1=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-] | C8H8N4O3S
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | CH3CN | CC#N | C2H3N
product | Methyl (E)-2-diazo-4-phenyl-3-butenoate | 68% yield | [N+](=[N-])=C(C(=O)OC)\C=C\C1=CC=CC=C1 | C11H10N2O2
